Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Bacitracin
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion and pulmonary embolism on outpatient CTA
 
Major Surgical or Invasive Procedure:
Cardioversion

 
History of Present Illness:
The patient is a ___ year old man with a history of multiple PEs 
on coumadin, PAF on rate control, untreated OSA who was referred 
to the ED after finding a PE on an outpatient CTA. The patient 
reports multiple PEs ___ years prior, and has since been 
maintained on coumadin therapy. He reports a work up for 
thombophilia at that time that was positive for anticardiolipin 
antibody. He also has a history of paroxysmal AF, and had been 
maintained on amioderone as an outpatient. With continued sinus 
rhythm and concerns of long-term pulmonary toxicity, this had 
been weened off 3 months prior, and the patient has been on 
metoprolol since that time.  
 
Over the last ___ weeks the patient has noted marked dyspnea. He 
feels that it all started while on a golf course, when he first 
noted unablet to catch his breath with slight activity. He has 
since felt this symptoms relatively constantly, with some good 
days. He had discussed this symptoms with his cardiologist, and 
an outpatient PMIBI was unreveealing. He reports mild chest 
pressure, but no palpitations. He checks his blood pressure 
regularly, and has not noted any fast heart rates.  
 
He was seen by Dr. ___ in clinic 4 days prior, and was set 
up for an outpatient Holter, as he was noted to be in AF w/ RVR. 
He was also reffered to pulmonary for evaluation. A CTA was 
ordered, showing a pulmonary embolism, and was refferd to the ED 
for further manegment. The patient reports having always been 
therapeutic on his coumadin, with no recent changes in dose. He 
has not been on any new medications or antibiotics recently. He 
reports a colonoscopy one year prior. He denies dysuria, but has 
had increase urinary frequency, no incomplete voiding, and mild 
nocturia. He is diagnosed with OSA, but declined the use of 
CPAP. He has not been experienceing any increased ___ edema, 
orthopnea, or PND, but has had a 20lb weigh gain, which he 
attributes to stationary ___ living habits.  
 
On presenation to the ED, the patients vitals wer 97.5, 124/89, 
HR 82, 96% on RA. While in the emergency room, the patient went 
into AF with RVR of 150. He was given 10mg, then 20mg of IV 
dilt, and then started on a dilt gtt. He was started on a 
heparin gtt after discussion with hematology. He was admitted to 
medicine for further management. On arrival to the floor, his HR 
was 150. 
 
Past Medical History:
- atrial fibrillation, on coumadin and recently started on rate 
control  
- sick sinus syndrome  
- sleep apnea  
- previous asbestos exposure  
- previously on amiodarone, stopped recently ___ ? toxicity  
- mild restrictive lung disease  
- scalp melanoma s/p excision  
- pulmonary embolism, with reported + ACLA. 
 
Social History:
___
Family History:
The patient's cousin has a history of pulmonary embolism, and 
was also diagnosed with anti-cardiolipin antibiody. His family 
history is significant for an MI in his father who died in his 
early ___. He was a heavy cigarette smoker, had emphysema and 
also a history of tuberculosis. His mother died of a stroke in 
her ___. There is no family history of premature coronary artery 
disease or sudden death.  
 
Physical Exam:
VS - Afebrile, BP 104/84, HR 131 (in Afib), 96% on 2L O2  
Gen: Obese male in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: no JVD  
CV: Irregularly irregular, rapid rate.  
Chest: CTAB, no crackles, wheezes or rhonchi.  
Abd: Soft, NT, obese.  
Ext: Pedal edema bilaterally, Right leg swelling > Left  
 
Pertinent Results:
___ 03:45PM   GLUCOSE-106* UREA N-22* CREAT-1.3* SODIUM-139 
POTASSIUM-4.6 CHLORIDE-105 TOTAL CO2-27 ANION GAP-12
___ 07:15AM   Glucose-97 UreaN-20 Creat-1.3* Na-140 K-4.0 
Cl-104 HCO3-28 AnGap-12
___ 03:45PM   CK(CPK)-113
___ 03:45PM   cTropnT-<0.01
___ 03:45PM   CK-MB-3
___ 03:45PM   WBC-6.3 RBC-4.89 HGB-14.5 HCT-42.2 MCV-86 
MCH-29.7 MCHC-34.5 RDW-14.4
___ 03:45PM   NEUTS-55.5 ___ MONOS-7.7 EOS-1.0 
BASOS-0.2
___ 03:45PM   ___ PTT-34.1 ___
___ 07:15AM   ___ PTT-30.2 ___
___ 03:45PM   TSH-3.0
___ 03:45PM   PSA-2.5
___ 07:15AM   Triglyc-116 HDL-47 CHOL/HD-3.7 LDLcalc-104 
LDLmeas-109
 
Imaging:
CTA/High-res CT (___):
1. Pulmonary embolism within the right basilar pulmonary artery 
at the common trunk of the posterior and lateral segmental 
arteries (image 92, series 5).  
2. Smooth septal thickening suggestive of hydrostatic edema, 
accompanied by small dependent pleural effusions, right greater 
than left. 
3. No evidence of fibrotic interstitial lung disease. 
Nonspecific peripheral opacities at the lung bases are largely 
unchanged since ___, but a peripheral opacity at the left base 
has apparently slightly progressed. Consider a followup CT scan 
in three to six months following treatment for presumed CHF and 
the pulmonary embolism if warranted clinically. 
4. Evidence of prior granulomatous exposure. 
5. Calcified gallstones. 
 
Bilat ___ U/S (___): No lower extremity DVT detected.
 
TTE (___): Poor technical quality due to patient's body 
habitus. The left atrium is dilated. There is mild to moderate 
regional left ventricular systolic dysfunction with hypokinesis 
of at least the inferior and inferolateral walls (EF ___.
 
TEE (___): Mild spontaneous echo contrast but no thrombus is 
seen in the body of the left atrium/left atrial appendage and 
right atrium/right atrial appendage. The left atrial appendage 
emptying velocity is depressed (<0.2m/s). No atrial septal 
defect is seen by 2D or color Doppler. Overall left ventricular 
systolic function is depressed (LVEF= 40 %). with depressed free 
wall contractility. Overall right ventricular systolic function 
is also depressed. There is no mass/thrombus in the right 
ventricle. There are complex (>4mm) atheroma in the descending 
thoracic aorta. The aortic valve leaflets (3) are mildly 
thickened. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Mild (1+) mitral regurgitation is 
seen. No mass or vegetation is seen on the mitral, aortic, 
tricuspid or pulmonic valves. There is no pericardial effusion.
 
Brief Hospital Course:
1. Pulmonary embolism: He reports having always been therapeutic 
on coumadin for his prior PE, and his OSH records, although many 
years old, showed mainly therapeutic values. With his new small 
segmental PE, he showed no evidence of hemodynamic compromise. 
He was started on a heparin gtt in the ED. Lower extremity 
ultrasound showed no evidence of thrombus. Obtained 
transthoracic, and later transesophageal, echocardiogram to rule 
out right heart abnormalities or thrombus, which showed some RV 
systolic dysfunction and no thrombus. Records were obtained from 
___ regarding thrombophilia workup several years 
ago, which showed positive "leukocyte anticoagulant," although 
reported elsewhere as anticardiolipin antibody. Hematology was 
consulted and concerned that this represents warfarin failure, 
recommending lovenox x6 months, and CT follow up of his left 
lung base opacity in 3 months. He was continued on heparin gtt 
and switched to lovenox BID ___. Pulmonary consult felt his 
small PE was unlikely to be a large contributor to his dyspnea.
 
2. Atrial Fibrillation: On admission he was in AF with RVR up to 
150, but hemodynamically stable. His metoprolol was increased to 
75mg TID from 50mg daily and he was placed on a diltiazam drip, 
which was titrated to HR of 80. He was anticoagulated on heparin 
given his recent PE. His TSH was found to be normal.  Rhythm 
control was favored in his case as the Afib was felt to be 
leading to his dyspnea. Therefore, pulmonary was consulted to 
determine the safety of restarting amiodarone given possible 
prior lung toxicity. Although not ideal, they felt restarting 
amiodarone with careful monitoring via PFTs and repeat chest CT 
would be acceptable. After a TEE showed no thrombus, amiodarone 
was restarted and his metoprolol was decreased to 12.5mg BID to 
prevent bradcardia if his rhythm converted. As he continued to 
require diltiazem drip, he was electrically cardioverted and 
remained in sinus rhythm with HR in 50-60s.  He was discharged 
on Metoprolol 12.5mg BID, Amiodarone 400mg BID for 3 more days, 
then 400mg daily. He was also discharged with ___ of Hearts 
monitor.
 
3. OSA: Patient had a trial of CPAP, and stated he slept and 
felt better with this. He will follow up as an outpatient with 
the sleep clinic.
  
4. Hypertension: Remained normotensive and his home ___ was 
initially held to maximize pressure for the diltiazem drip for 
HR control.  As drip was discontinued and patient was converted, 
___ was restarted.  He was discharged on 40mg daily of valsartan 
and metoprolol 12.5mg BID.
 
5. CAD: Suggested by focal hypokinesis on TTE. He was continued 
on ASA, b-blocker, and ___, and started on simvastatin.
 
6. Chronic systolic heart failure: Not symptomatic, but patient 
had peripheral edema, mild rales, depressed EF at ___. 
Patient was started on furosemide for mild volume overload and 
continued on ___. He was able to maintain euvolemia on 
furosemide 20mg daily and was discharged with a furosemide 
prescription, but instructed not to take it unless he felt short 
of breath or had increased weight.
 
Medications on Admission:
- Toprol XL 50mg PO daily  
- Valsartan 80mg PO QHS  
- Warfarin 5mg PO daily  
- ASA 81mg PO daily  
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*2*
2. Valsartan 80 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).
Disp:*30 Tablet(s)* Refills:*2*
3. Enoxaparin 120 mg/0.8 mL Syringe Sig: One Hundred Twenty 
(120) mg Subcutaneous Q12H (every 12 hours).
Disp:*60 syringes* Refills:*1*
4. Furosemide 20 mg Tablet Sig: One (1) Tablet PO Daily PRN.
Disp:*30 Tablet(s)* Refills:*1*
5. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
6. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day) for 3 days.
Disp:*6 Tablet(s)* Refills:*0*
7. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO once a day: 
after completing 400mg twice daily, Take 2 tabs daily for 3 
weeks, after this change to 1 tab daily.
Disp:*60 Tablet(s)* Refills:*2*
8. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO twice a 
day: take ___ tablet twice daily.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
1. Pulmonary Embolism
2. Atrial fibrillation with Rapid Ventricular Rate

Secondary Diagnoses
1. Hypertension
2. Obstructive Sleep Apnea
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted to the hospital for having several weeks of 
shortness of breath and being found to have a pulmonary embolism 
(PE) on outpatient CT scan. You were also found to be in atrial 
fibrillation with a rapid heart rate. Since the PE is small, 
your shortness of breath was most likely from the atrial 
fibrillation. We tried to control your heart rate with 
medicines, but you required cardioversion to restore a normal 
rhythm. Since you had a PE while taking warfarin, we have 
switched you to a different medication called enoxaparin 
(lovenox).
 
Please take all medications as prescribed and go to all follow 
up appointments. We made the following changes to your 
medications:
- Started amiodarone (to keep your heart in rhythm), enoxaparin 
(blood thinner), furosemide (remove extra fluid), and 
simvastatin (lowers cholesterol).  

Per instruction of Dr. ___ take furosemide if you 
start feeling Short of breath by the end of the day.  For 
Valsartan, please take 40mg daily (___) to start, check your 
blood pressure daily, if it is elevated, please take 80mg daily. 


You were provided with ___ of Hearts Monitor to monitor your 
heart rate.  This will be assessed by Dr. ___.
 
Please return to the hospital if you develop chest pain or 
shortness of breath, palpitations, new leg swelling or leg pain.
 
Followup Instructions:
___